US08034811B2
2-(4-Methoxy-benzylamino)-nicotinonitrile
To a stirred mixture of 2-chloro-nicotinonitrile (Aldrich, 2.20 g, 15.88 mmol) and 4-methoxy-benzylamine (2.27 ml, 17.49 mmol) in 2-propanol (20 ml) was added N,N-diisopropylethylamine (5.53 ml, 31.75 mmol). The reaction mixture was heated to 80° C. and stirred at this temperature for 24 hours. More 4-methoxybenzylamine (0.50 ml, 3.85 mmol) was added and stirring continued at 70° C. for 48 hours. The mixture was cooled to room temperature and the resulting solid material (4-methoxy-benzylamine hydrochloride) removed by filtration. On standing a crystalline product formed in the filtrate, which was isolated by filtration, washed with 2-propanol and dried under reduced pressure affording the title compound as pale yellow crystals (1.27 g). 1H-NMR (DMSO-d6) δ 8.21-8.30 (m, 1H), 7.90 (d, 1H), 7.65 (t, 1H), 7.25 (d, 2H), 6.85 (d, 2H), 6.59-6.68 (m, 1H), 4.50 (d, 2H), 3.75 (s, 3H).

reactant | 2-chloro-nicotinonitrile | 15.88 mmol, 2.20 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 4-methoxy-benzylamine | 17.49 mmol, 2.27 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | N,N-diisopropylethylamine | 31.75 mmol, 5.53 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxybenzylamine | 3.85 mmol, 0.50 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 2-(4-Methoxy-benzylamino)-nicotinonitrile | 1.27 g | COC1=CC=C(CNC2=C(C#N)C=CC=N2)C=C1 | C14H13N3O
